US03992189
Preparation of 4-bromo-2-fluoroaniline
160 Parts of solid N-bromosuccinimide were added in portions over a 2 hour period to a solution of 100 parts of 2fluoroaniline in 400 parts of methylene chloride cooled to 0° C. After stirring for 20 minutes, the dark red mixture was washed four times; 200 parts of cold water were used for each washing. The red organic phase was dried with anhydrous sodium sulfate and evaporated under 300 mm. Hg to 164 parts of brown, oily 4-bromo-2-fluoroaniline, nD25 : 1.5885.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
